US09034880B2
Preparation of the title compound was carried out according to General Method 8. p-Tolylhydrazine hydrochloride (1.27 g, 8 mmol), 5-(2-bromoethyl)-2-methylpyridine (1.6 g, 8 mmol), triethyl amine (3.5 ml, 24 mmol) and 1-methylpiperidine-2,4-dione (4.2 g, 8 mmol) were taken in ethanol (25 ml) to obtain 40 mg of 1,2-dihydro-2,8-dimethyl-5-(2-(6-methylpyridin-3-yl)ethyl)-4H-pyrido[4,3-b]indol-3(5H)-one after purification on silica gel (230-400 mesh) chromatography eluting with methanol-dichloromethane gradient. To this intermediate (25 mg, 0.07 mmol) was added N-bromo succinamide (26 mg, 0.1), and azobisisobutyronitrile (1 mg) in carbon tetrachloride (10 ml) and the reaction mixture was heated at 80° C. for 12 h to obtain 5 mg of 4-bromo-1,2-dihydro-2,8-dimethyl-5-(2-(6-methylpyridin-3-yl)ethyl)-4H-pyrido[4,3-b]indol-3(5H)-one as a trifluoroacetate salt after purification by reverse-phase chromatography (C-18, 500 mm×50 mm, Mobile Phase A=0.05% TFA in water, B=0.05% TFA in acetonitrile, Gradient: 10% B to 80% B in 30 min, injection vol. 5 mL).

reactant | p-Tolylhydrazine hydrochloride | 8 mmol, 1.27 g | Cl.C1(=CC=C(C=C1)NN)C
reactant | 5-(2-bromoethyl)-2-methylpyridine | 8 mmol, 1.6 g | BrCCC=1C=CC(=NC1)C | C8H10BrN
reactant | triethyl amine | 24 mmol, 3.5 ml | C(C)N(CC)CC | C6H15N
reactant | 1-methylpiperidine-2,4-dione | 8 mmol, 4.2 g | CN1C(CC(CC1)=O)=O | C6H9NO2
solvent | ethanol | 25 ml | C(C)O | C2H6O
product | 1,2-dihydro-2,8-dimethyl-5-(2-(6-methylpyridin-3-yl)ethyl)-4H-pyrido[4,3-b]indol-3(5H)-one | 40 mg | CN1CC2=C(N(C=3C=CC(=CC23)C)CCC=2C=NC(=CC2)C)CC1=O | C21H23N3O
